US05189049
N-[4-(4-Methoxyphenyl)-2-thiazolyl]-1-methyl-indole-2-carboxamide
1 g of 2-amino-4-(4-methoxyphenyl)thiazole is dissolved in 20 ml of dimethylformamide and, successively, 0.6 g of 1-methylindole-2-carboxylic acid, then 1.6 g of 1-benzotriazolyl-oxytris(dimethylamino)phosphonium hexafluorophosphate (BOP) and then 0.7 g of triethylamine are added to the reaction mixture at ambient temperature. The reaction mixture is left at ambient temperature for about 12 hours, while stirring well, before pouring into 100 ml of ice-water; the aqueous phase obtained is then extracted with twice 50 ml of ethyl acetate. The organic extracts are dried over anhydrous magnesium sulphate and evaporated to dryness. The residual solid is purified by chromatography on a silica column (eluant: CH2Cl2). Yield

reactant | 2-amino-4-(4-methoxyphenyl)thiazole | 1 g | NC=1SC=C(N1)C1=CC=C(C=C1)OC | C10H10N2OS
reactant | 1-methylindole-2-carboxylic acid | 0.6 g | CN1C(=CC2=CC=CC=C12)C(=O)O | C10H9NO2
reactant | 1-benzotriazolyl-oxytris(dimethylamino)phosphonium hexafluorophosphate | 1.6 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | triethylamine | 0.7 g | C(C)N(CC)CC | C6H15N
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | N-[4-(4-Methoxyphenyl)-2-thiazolyl]-1-methyl-indole-2-carboxamide | COC1=CC=C(C=C1)C=1N=C(SC1)NC(=O)C=1N(C2=CC=CC=C2C1)C | C20H17N3O2S
